** Name: SymmetricalOpAmp93

.MACRO SymmetricalOpAmp93 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=43e-6
mDiodeTransistorPmos3 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=318e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=42e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=39e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=1e-6 W=29e-6
mNormalTransistorNmos7 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=46e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=117e-6
mNormalTransistorNmos9 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=46e-6
mNormalTransistorNmos10 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=1e-6 W=29e-6
mNormalTransistorNmos11 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=63e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=63e-6
mNormalTransistorNmos13 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=184e-6
mNormalTransistorNmos14 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=184e-6
mNormalTransistorPmos15 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=137e-6
mNormalTransistorPmos16 out inputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=435e-6
mNormalTransistorPmos17 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=137e-6
mNormalTransistorPmos18 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=508e-6
mNormalTransistorPmos19 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=594e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=504e-6
mNormalTransistorPmos21 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=318e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp93

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 5.76201 mW
** Area: 9445 (mu_m)^2
** Transit frequency: 35.4681 MHz
** Transit frequency with error factor: 35.4685 MHz
** Slew rate: 34.8053 V/mu_s
** Phase margin: 55.004°
** CMRR: 153 dB
** negPSRR: 51 dB
** posPSRR: 62 dB
** VoutMax: 4.67001 V
** VoutMin: 0.360001 V
** VcmMax: 4.05001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 394.967 muA
** NormalTransistorPmos: -143.033 muA
** NormalTransistorPmos: -121.482 muA
** NormalTransistorNmos: 60.6801 muA
** NormalTransistorNmos: 60.6791 muA
** NormalTransistorNmos: 60.6801 muA
** NormalTransistorNmos: 60.6791 muA
** NormalTransistorPmos: -121.361 muA
** NormalTransistorPmos: -60.6809 muA
** NormalTransistorPmos: -60.6809 muA
** NormalTransistorNmos: 175.812 muA
** NormalTransistorNmos: 175.813 muA
** NormalTransistorPmos: -175.811 muA
** NormalTransistorPmos: -175.812 muA
** DiodeTransistorPmos: -175.811 muA
** NormalTransistorNmos: 175.812 muA
** NormalTransistorNmos: 175.813 muA
** DiodeTransistorNmos: 143.034 muA
** DiodeTransistorNmos: 121.483 muA
** DiodeTransistorPmos: -394.966 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.20501  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 0.556001  V
** innerComplementarySecondStage: 4.26001  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** out1FirstStage: 0.556001  V
** out2FirstStage: 0.768001  V
** outVoltageBiasXXnXX0: 0.686001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.205001  V
** innerTransistorStack2Load1: 0.205001  V
** sourceTransconductance: 3.22101  V
** innerStageBias: 4.40001  V
** innerTransconductance: 0.151001  V
** inner: 0.151001  V


.END