** Name: SymmetricalOpAmp70

.MACRO SymmetricalOpAmp70 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=162e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=4e-6 W=162e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos5 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
mDiodeTransistorPmos6 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=121e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=121e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=365e-6
mNormalTransistorNmos9 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=446e-6
mNormalTransistorNmos10 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=4e-6 W=162e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=446e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=518e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=265e-6
mNormalTransistorNmos14 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=162e-6
mNormalTransistorPmos15 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=65e-6
mNormalTransistorPmos16 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=65e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=180e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=180e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp70

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 5.53201 mW
** Area: 11312 (mu_m)^2
** Transit frequency: 53.3471 MHz
** Transit frequency with error factor: 53.3474 MHz
** Slew rate: 51.0383 V/mu_s
** Phase margin: 60.1606°
** CMRR: 143 dB
** negPSRR: 58 dB
** posPSRR: 49 dB
** VoutMax: 4.25 V
** VoutMin: 0.950001 V
** VcmMax: 4.56001 V
** VcmMin: 1.33001 V


** Expected Currents: 
** NormalTransistorNmos: 243.527 muA
** DiodeTransistorPmos: -169.893 muA
** DiodeTransistorPmos: -169.893 muA
** NormalTransistorNmos: 339.786 muA
** NormalTransistorNmos: 339.785 muA
** NormalTransistorNmos: 169.894 muA
** NormalTransistorNmos: 169.894 muA
** NormalTransistorNmos: 256.552 muA
** DiodeTransistorNmos: 256.551 muA
** NormalTransistorPmos: -256.551 muA
** NormalTransistorPmos: -256.55 muA
** DiodeTransistorNmos: 256.552 muA
** NormalTransistorNmos: 256.551 muA
** NormalTransistorPmos: -256.551 muA
** NormalTransistorPmos: -256.55 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -243.526 muA


** Expected Voltages: 
** ibias: 1.22801  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceStageBiasComplementarySecondStage: 0.678001  V
** inSourceTransconductanceComplementarySecondStage: 4.15501  V
** innerComplementarySecondStage: 1.35601  V
** out: 2.5  V
** outFirstStage: 4.15501  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.609001  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.71801  V
** inner: 0.677001  V
** inner: 4.71801  V


.END