** Name: SymmetricalOpAmp93

.MACRO SymmetricalOpAmp93 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=28e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=61e-6
mDiodeTransistorPmos3 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=588e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=13e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=62e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=2e-6 W=193e-6
mNormalTransistorNmos7 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=2e-6 W=340e-6
mNormalTransistorNmos8 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=340e-6
mNormalTransistorNmos9 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=2e-6 W=193e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=139e-6
mNormalTransistorNmos11 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=122e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=122e-6
mNormalTransistorNmos13 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=378e-6
mNormalTransistorNmos14 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=378e-6
mNormalTransistorPmos15 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=465e-6
mNormalTransistorPmos16 out outVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=3e-6 W=533e-6
mNormalTransistorPmos17 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=465e-6
mNormalTransistorPmos18 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=2e-6 W=214e-6
mNormalTransistorPmos19 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=121e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos21 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=588e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp93

** Expected Performance Values: 
** Gain: 86 dB
** Power consumption: 12.0501 mW
** Area: 13895 (mu_m)^2
** Transit frequency: 60.3991 MHz
** Transit frequency with error factor: 60.3995 MHz
** Slew rate: 142.826 V/mu_s
** Phase margin: 60.1606°
** CMRR: 139 dB
** negPSRR: 43 dB
** posPSRR: 54 dB
** VoutMax: 4.26001 V
** VoutMin: 0.370001 V
** VcmMax: 3.77001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 209.837 muA
** NormalTransistorPmos: -93.5229 muA
** NormalTransistorPmos: -164.126 muA
** NormalTransistorNmos: 234.032 muA
** NormalTransistorNmos: 234.031 muA
** NormalTransistorNmos: 234.032 muA
** NormalTransistorNmos: 234.031 muA
** NormalTransistorPmos: -468.062 muA
** NormalTransistorPmos: -234.031 muA
** NormalTransistorPmos: -234.031 muA
** NormalTransistorNmos: 727.222 muA
** NormalTransistorNmos: 727.221 muA
** NormalTransistorPmos: -727.221 muA
** NormalTransistorPmos: -727.222 muA
** DiodeTransistorPmos: -727.221 muA
** NormalTransistorNmos: 727.222 muA
** NormalTransistorNmos: 727.221 muA
** DiodeTransistorNmos: 93.5221 muA
** DiodeTransistorNmos: 164.127 muA
** DiodeTransistorPmos: -209.836 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.14201  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.17201  V
** out: 2.5  V
** out1FirstStage: 0.555001  V
** out2FirstStage: 0.779001  V
** outVoltageBiasXXnXX0: 0.733001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.204001  V
** innerTransistorStack2Load1: 0.204001  V
** sourceTransconductance: 3.43801  V
** innerStageBias: 4.72701  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END