** Name: SymmetricalOpAmp98

.MACRO SymmetricalOpAmp98 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=21e-6
mDiodeTransistorPmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=515e-6
mDiodeTransistorPmos4 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=515e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=1e-6 W=65e-6
mNormalTransistorNmos6 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=85e-6
mNormalTransistorNmos7 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=85e-6
mNormalTransistorNmos8 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=1e-6 W=65e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=70e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=70e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=176e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=176e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=587e-6
mNormalTransistorPmos14 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=1e-6 W=515e-6
mNormalTransistorPmos15 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=587e-6
mNormalTransistorPmos16 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=3e-6 W=388e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=556e-6
mNormalTransistorPmos18 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=515e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp98

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 5.77601 mW
** Area: 8111 (mu_m)^2
** Transit frequency: 66.4491 MHz
** Transit frequency with error factor: 66.4487 MHz
** Slew rate: 66.3951 V/mu_s
** Phase margin: 68.755°
** CMRR: 152 dB
** negPSRR: 51 dB
** posPSRR: 61 dB
** VoutMax: 4.05001 V
** VoutMin: 0.370001 V
** VcmMax: 3.99001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -186.279 muA
** NormalTransistorNmos: 134.912 muA
** NormalTransistorNmos: 134.911 muA
** NormalTransistorNmos: 134.912 muA
** NormalTransistorNmos: 134.911 muA
** NormalTransistorPmos: -269.822 muA
** NormalTransistorPmos: -134.911 muA
** NormalTransistorPmos: -134.911 muA
** NormalTransistorNmos: 336.338 muA
** NormalTransistorNmos: 336.337 muA
** NormalTransistorPmos: -336.337 muA
** DiodeTransistorPmos: -336.338 muA
** DiodeTransistorPmos: -342.688 muA
** NormalTransistorPmos: -342.687 muA
** NormalTransistorNmos: 342.689 muA
** NormalTransistorNmos: 342.688 muA
** DiodeTransistorNmos: 186.28 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.15201  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 4.24401  V
** inSourceTransconductanceComplementarySecondStage: 0.556001  V
** innerComplementarySecondStage: 3.48801  V
** out: 2.5  V
** out1FirstStage: 0.556001  V
** out2FirstStage: 0.774001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.212001  V
** innerTransistorStack2Load1: 0.212001  V
** sourceTransconductance: 3.22401  V
** innerTransconductance: 0.152001  V
** inner: 4.24501  V
** inner: 0.151001  V


.END