** Name: SymmetricalOpAmp113

.MACRO SymmetricalOpAmp113 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=10e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=66e-6
mDiodeTransistorPmos3 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mNormalTransistorNmos4 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=57e-6
mNormalTransistorNmos5 out innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=66e-6
mNormalTransistorNmos6 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=57e-6
mNormalTransistorNmos7 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=6e-6 W=120e-6
mNormalTransistorNmos8 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=6e-6 W=328e-6
mNormalTransistorPmos9 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=516e-6
mNormalTransistorPmos10 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=399e-6
mNormalTransistorPmos11 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=516e-6
mNormalTransistorPmos12 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=399e-6
mNormalTransistorPmos13 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=25e-6
mNormalTransistorPmos14 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=25e-6
mNormalTransistorPmos15 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=32e-6
mNormalTransistorPmos16 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=32e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp113

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 4.33901 mW
** Area: 4950 (mu_m)^2
** Transit frequency: 35.4571 MHz
** Transit frequency with error factor: 35.4575 MHz
** Slew rate: 41.0792 V/mu_s
** Phase margin: 75.6305°
** CMRR: 96 dB
** negPSRR: 137 dB
** posPSRR: 64 dB
** VoutMax: 4.25 V
** VoutMin: 0.190001 V
** VcmMax: 4.81001 V
** VcmMin: 0.850001 V


** Expected Currents: 
** NormalTransistorNmos: 120.092 muA
** NormalTransistorPmos: -160.876 muA
** NormalTransistorPmos: -160.877 muA
** NormalTransistorPmos: -160.876 muA
** NormalTransistorPmos: -160.877 muA
** NormalTransistorNmos: 321.753 muA
** NormalTransistorNmos: 160.877 muA
** NormalTransistorNmos: 160.877 muA
** NormalTransistorNmos: 207.942 muA
** NormalTransistorPmos: -207.941 muA
** NormalTransistorPmos: -207.94 muA
** DiodeTransistorNmos: 207.942 muA
** NormalTransistorPmos: -207.941 muA
** NormalTransistorPmos: -207.94 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -120.091 muA


** Expected Voltages: 
** ibias: 0.670001  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** innerComplementarySecondStage: 0.597001  V
** out: 2.5  V
** out1FirstStage: 3.83601  V
** out2FirstStage: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.91201  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V


.END